US07851493B2
18.6 g 3-(4-Trifluoromethyl-phenyl)-propionamide and 42.8 ml ethyl 2-chloroacetoacetate were mixed and stirred at 150° C. for eight hours. Excess ethyl 2-chloroacetoacetate was removed in vacuo (oil pump) and the residue purified by chromatography on silica gel with the eluent petroleum benzene:ethyl acetate=3:1 to obtain 13.75 g 4-methyl-2-[2-(4-trifluoromethyl-phenyl)-ethyl]-oxazole-5-carboxylic acid ethyl ester as an oil.

reactant | 3-(4-Trifluoromethyl-phenyl)-propionamide | 18.6 g | FC(C1=CC=C(C=C1)CCC(=O)N)(F)F | C10H10F3NO
reactant | ethyl 2-chloroacetoacetate | 42.8 ml | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
product | 4-methyl-2-[2-(4-trifluoromethyl-phenyl)-ethyl]-oxazole-5-carboxylic acid ethyl ester | 13.75 g | C(C)OC(=O)C1=C(N=C(O1)CCC1=CC=C(C=C1)C(F)(F)F)C | C16H16F3NO3
